US05972975
EXAMPLE 20 2-Amino-3-methoxypyridine
A solution of 2-amino-3-hydroxypyridine (Aldrich, 200 mg) in 20% methanol/benzene (4 mL) was treated with trimethylsilyldiazomethane (1.8 mL, 2.0 M), boron trifluoride diethyletherate (0.026 mL) and stirred at room temperature for 16 hr. The solvent was evaporated in vacuo and the crude oil was purified by medium pressure liquid chromatography on a 21×300 mm silica column eluted with 50% ethyl acetate/lmethylene chloride to give the title compound (50 mg).

reactant | 2-amino-3-hydroxypyridine | 200 mg | NC1=NC=CC=C1O | C5H6N2O
reactant | trimethylsilyldiazomethane | 2.0 M, 1.8 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | boron trifluoride | B(F)(F)F | BF3
solvent | methanol benzene | 4 mL | CO.C1=CC=CC=C1
product | 2-Amino-3-methoxypyridine | 50 mg | NC1=NC=CC=C1OC | C6H8N2O
